US04281000
3-Methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine
As for Example 2, 3-amino-4-methylpyrazole is heated at reflux temperature for 6 hours with 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one in glacial acetic acid to give the product of the example.

reactant | 3-amino-4-methylpyrazole | NC1=NNC=C1C | C4H7N3
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | CC=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C12H10N4
